US04567176
2-[3-(3-Piperidinomethylphenoxy)propylamino]-1-methylimidazolin-4-one
3-(3-Piperidinomethylphenoxy)propylamine (2.61 g), 1-methyl-2-methylthioimidazolin-4-one hydroiodide (2.85 g) and triethylamine (3.635 g) were refluxed in ethanol (25 ml) for 5 hours.

reactant | 3-(3-Piperidinomethylphenoxy)propylamine | 2.61 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 1-methyl-2-methylthioimidazolin-4-one hydroiodide | 2.85 g | I.CN1C(=NC(C1)=O)SC
reactant | triethylamine | 3.635 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[3-(3-Piperidinomethylphenoxy)propylamino]-1-methylimidazolin-4-one | N1(CCCCC1)CC=1C=C(OCCCNC=2N(CC(N2)=O)C)C=CC1 | C19H28N4O2
